US04547512
The 2-[2-(5-methyl-4-imidazolylmethylthio)ethyl]amino-3-cyano-5-n-pentylpyridine obtained above (2.53 g; 0.0074 moles) was treated with conc. hydrochloric acid (20 ml) and heated to reflux for 36 hours. After stripping the mixture to dryness, the residue was dissolved in a little water and basified to about pH6 with sodium carbonate solution giving a precipitate. The mixture was azeotroped to dryness and chromatographed on silica-gel using chloroform/ethanol (20:1) to collect the desired band. The 2-[2-(5-methyl-4-imidazolylmethylthio)ethyl]amino-5-n-pentylpyridine-3-carboxylic acid hemihydrochloride obtained (1.25 g) could not be crystallised and it was a straw-coloured glass. NMR data (DMSO-d6): --CH3CH2 at 0.88; (CH2)3 at 1.1-1.7; Im-CH3 at 2.24; pyr-CH2 at 2.47; CH2CH2S at 2.70; NCH2CH2 at 3.64; ImCH2S at 3.82; pyr-4H at 7,93; pyr-6H at 8.12 and Im-2H at 8.40.

reactant | 2-[2-(5-methyl-4-imidazolylmethylthio)ethyl]amino-3-cyano-5-n-pentylpyridine | CC1=C(N=CN1)CSCCNC1=NC=C(C=C1C#N)CCCCC | C18H25N5S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethyl]amino-5-n-pentylpyridine-3-carboxylic acid hemihydrochloride | Cl.CC1=C(N=CN1)CSCCNC1=NC=C(C=C1C(=O)O)CCCCC.CC1=C(N=CN1)CSCCNC1=NC=C(C=C1C(=O)O)CCCCC | InChI=1S/2C18H26N4O2S.ClH/c2*1-3-4-5-6-14-9-15(18(23)24)17(20-10-14)19-7-8-25-11-16-13(2)21-12-22-16;/h2*9-10,12H,3-8,11H2,1-2H3,(H,19,20)(H,21,22)(H,23,24);1H
